US07217724B2
3-{(2R)-2-[(5R)-5-(3-Chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl]propyl}-1H-indole-7-carboxylic acid
A solution of ethyl 3-{(2R)-2-[(5R)-5-(3-chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl]propyl}-1H-indole-7-carboxylate (55 mg, 0.129 mmol) and potassium hydroxide (70 mg, 1.3 mmol) in water (1 mL) and ethanol (2 mL) is stirred at room temperature for 3 days. The reaction mixture is neutralized with 1N hydrochloric acid, and the precipitated crystals are collected by filtration to give the title compound (44 mg, yield: 86%).

reactant | ethyl 3-{(2R)-2-[(5R)-5-(3-chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl]propyl}-1H-indole-7-carboxylate | 0.129 mmol, 55 mg | ClC=1C=C(C=CC1)[C@@H]1CN(C(O1)=O)[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OCC)C | C23H23ClN2O4
reactant | potassium hydroxide | 1.3 mmol, 70 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{(2R)-2-[(5R)-5-(3-Chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl]propyl}-1H-indole-7-carboxylic acid | 44 mg, yield: 86% | ClC=1C=C(C=CC1)[C@@H]1CN(C(O1)=O)[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)O)C | C21H19ClN2O4
